US06229011B1
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(2-methylsulfonylphenyl)carbonyl]-L-phenylalanine methyl ester was prepared in 99% yield from 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester and 2-methylsulfonylbenzoic acid using the general procedure described in example, LR MS: 548 (M+).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | 2-methylsulfonylbenzoic acid | CS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C8H8O4S
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(2-methylsulfonylphenyl)carbonyl]-L-phenylalanine methyl ester | 99% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1)S(=O)(=O)C)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C25H22Cl2N2O6S
